US06344459B1
N-[4-[(3-Bromophenyl)amino]quinazolin-6-yl]-propynamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (200 mg, 1.04 mmol) was added to a solution of 6-amino-4-[(3-bromophenyl)-amino]quinazoline (158 mg, 0.5 mmol) and propiolic acid (0.08 mL, 1.1 mmol) in DMF (1.5 mL) stirred under N2 at 0° C. The resulting solution was stirred at 0° C. for 30 minutes and quenched with water. The formed fine solid was collected by Buchner filtration then dissolved in methanol and purified by preparative tlc on silica, eluting with 10% MeOH/CHCl3. The title compound was isolated as a yellow solid (21 mg, 12%), mp >310° C.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.04 mmol, 200 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-amino-4-[(3-bromophenyl)-amino]quinazoline | 0.5 mmol, 158 mg | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | propiolic acid | 1.1 mmol, 0.08 mL | C(C#C)(=O)O | C3H2O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-[4-[(3-Bromophenyl)amino]quinazolin-6-yl]-propynamide | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C#C)=O | C17H11BrN4O
